US08357679B2
B: (4-Aminophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone
tert-Butyl 4-(4-aminobenzoyl)piperazine-1-carboxylate (4.98 mmol, 1.520 g) was dissolved in dichloromethane and trifluoroacetic acid added. The reaction was left overnight and then treated to SCX purification. The intermediate amine was combined with 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (4.98 mmol, 1.678 g) and potassium carbonate (4.98 mmol, 0.688 g) in acetonitrile (30 mL) and stirred overnight. The reaction was concentrated under reduced pressure and the residue partitioned between water and ethyl acetate. The organic layer was separated and concentrated under reduced pressure. Purification by SCX column chromatography and silica chromatography (eluting with ethyl acetate) gave the title compound (1.25 g).

reactant | tert-Butyl 4-(4-aminobenzoyl)piperazine-1-carboxylate | 4.98 mmol, 1.520 g | NC1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H23N3O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 4.98 mmol, 1.678 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | potassium carbonate | 4.98 mmol, 0.688 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | (4-Aminophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 1.25 g | NC1=CC=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C21H21F6N3O2
